US07166587B2
0.61 g (1.18 mmol) carbonic acid (S)-1-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester 4-nitro-phenyl ester and 2.5 ml 2,2,3,3,3. pentafluoropropylamine were stirred at room temperature over night. Chromatography on silicagel with dichloromethane/ethylacetate (100-70/0-30) yielded 0.61 g (98%) (2,2,3,3,3-pentafluoro-propyl)-carbamic acid (S)-1-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester as white solid; MS: m/e: 526.0 (M+H+), [α] 589=−940° (1.1% in MeOH).

reactant | carbonic acid (S)-1-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester 4-nitro-phenyl ester | 1.18 mmol, 0.61 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(O[C@@H](C)C(N[C@H]1C2=C(C3=C(N(C1=O)CC1CC1)C=CC=C3)C=CC=C2)=O)=O | C28H25N3O7
reactant | pentafluoropropylamine | FC(CN)(C(F)(F)F)F | C3H4F5N
solvent | dichloromethane ethylacetate | ClCCl.C(C)OC(C)=O
product | (2,2,3,3,3-pentafluoro-propyl)-carbamic acid (S)-1-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester | 0.61 g, 98% | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC(=O)[C@H](C)OC(NCC(C(F)(F)F)(F)F)=O)C=CC=C3)C=CC=C2 | C25H24F5N3O4
